US05721255
2-Phenoxybenzaldehyde
A mixture of 2-phenoxybenzyl alcohol (4.0 g, 20.2 mmol, prepared by the reduction of commercially available 2-phenoxybenzoic acid with LiAlH4 /THF) and 150 mL CH2Cl2 was treated with pyridinium dichromate (11.39 g, 30.3 mmol) at 25° C. and stirred for another 36 hours. The mixture was filtered through d.e. and then through a pad of silica gel to produce 3.11 g (78%) of title compound as a yellow oil. 1H NMR (CDCl3) δ6.8 (d, 1H), 6.9 (d, 1H), 7.0 (m, 2H), 7.1 (m, 2H), 7.2 (m, 1H), 8.9 (m, 1H), 10.2 (s, 1H).

reactant | 2-phenoxybenzyl alcohol | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
reactant | 2-phenoxybenzoic acid | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | LiAlH4 THF | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
reactant | pyridinium dichromate | 30.3 mmol, 11.39 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenoxybenzaldehyde | 3.11 g, 78% | O(C1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C13H10O2
